US04051062
7-Dimethylamino-Coumarin
m-Dimethylaminophenol 6.0g, malic acid 6.0g and 85% sulfuric acid 12.0ml were heated in an oil bath at 120° for an hour. The mixture was cooled, diluted with crushed ice 50g, filtered, made alkaline with sodium carbonate and extracted with chloroform, which was separated, washed and dried over sodium sulfate. Evaporation of the chloroform produced a deep red gum which could not be induced to crystallize. The material was separated down an alumina column using dichloromethane, and the strong blue fluorescent ring was cut out, eluted with methanol and evaporated to dryness. Crystallization from i-propanol gave light brown needles, which on resrystallization became light yellow and lustrous, 0.65g (8%), m.p. 161°-161.5found C 69.95, 69.80; H 5.74, 5.79; N 7.36, 7.37; C11H11NO2 requires C 69.8; H 5.82; N 7.41%. The nuclear magnetic resonance spectrum (A-60) in deuterochloroform showed the methyl singlet 3.02 and the aromatic protons as follows: H4 and H3 centered at 6.00 and 7.54 respectively split by 9 cycles to give an AB quartet, H8 singlet at 6.47, H6 and H5 centered at 6.51 and 7.27 respectively split by 9 cycles to give another AB quartet and the H6 was further split by interaction with H8. Integrated intensities were in accord with the proposed structure.

reactant | m-Dimethylaminophenol | 6.0g | CN(C=1C=C(C=CC1)O)C | C8H11NO
reactant | malic acid | 6.0g | C(C(O)CC(=O)O)(=O)O | C4H6O5
reactant | sulfuric acid | 12.0ml | S(O)(O)(=O)=O | H2O4S
solvent | deuterochloroform | [2H]C(Cl)(Cl)Cl | CHCl3
product | 7-Dimethylamino-Coumarin | CN(C1=CC=C2C=CC(OC2=C1)=O)C | C11H11NO2
